US09102671B2
A 1 L four-necked flask equipped with an overhead stirrer, thermocouple and a condenser was charged with 2-hydroxyisoindoline-1,3-dione (25 g, 153 mmol) and acetone (500 mL). To this stirred suspension was added triethylamine (15.7 g, 154 mmol). The reaction mixture turned dark red and 2-hydroxyisoindoline-1,3-dione slowly dissolved and became a homogeneous solution after 10 minutes. 1-Chloro-2,4-dinitrobenzene (31 g, 153 mmol) was added and the reaction was stirred at room temperature for 2 hours. After this time, a bright yellow suspension formed, and the reaction mixture was poured into 500 mL of ice-water. The precipitate was filtered and washed three times with cold MeOH (100 mL). The solid was compressed and washed with heptanes (3×100 mL) and dried under vacuum to give 2-(2,4-dinitrophenoxy)isoindoline-1,3-dione (I-33). 1H NMR (400 MHz, CDCl3) δ 8.99 (d, 1 H), 8.44 (dd, 1 H), 8.03-7.97 (m, 2 H), 7.95-7.90 (m, 2 H), 7.46 (d, 1 H).

reactant | 2-hydroxyisoindoline-1,3-dione | 153 mmol, 25 g | ON1C(C2=CC=CC=C2C1=O)=O | C8H5NO3
reactant | triethylamine | 154 mmol, 15.7 g | C(C)N(CC)CC | C6H15N
reactant | 1-Chloro-2,4-dinitrobenzene | 153 mmol, 31 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 2-(2,4-dinitrophenoxy)isoindoline-1,3-dione | [N+](=O)([O-])C1=C(ON2C(C3=CC=CC=C3C2=O)=O)C=CC(=C1)[N+](=O)[O-] | C14H7N3O7
